US05302377
Propylene oxide was bubbled into 685 g of myristyl alcohol in the presence of potassium hydroxide catalyst until three moles of propylene oxide were added per mole of myristyl alcohol, thus obtaining a pale, yellow liquid (PPG-3 myristyl ether) as the major product.

reactant | Propylene oxide | C1C(C)O1 | C3H6O
reactant | myristyl alcohol | 685 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | propylene oxide | three moles | C1C(C)O1 | C3H6O
catalyst | potassium hydroxide | [OH-].[K+]
product | PPG-3 myristyl ether | CCCCCCCCCCCCCCOCCCO | C17H36O2
